US09376420B2
Step 1: 1-(3-bromo-phenyl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one
To a saturated solution of pentafluoroiodoethane (0.84 M, in diethyl ether) (102.0 mL, 85.5 mmol), was slowly added a solution of methyllithium/lithium bromide (1.5 M, in diethyl ether) (57.0 mL, 85.5 mmol) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 20 minutes and then a solution of 3-(3-bromo-phenyl)-N-methoxy-N-methylacrylamide (7.7 g, 28.5 mmol, in diethyl ether 50.0 mL) prepared in Step 1 of Preparation 4 was slowly added thereto at −78° C. The reaction mixture was stirred at room temperature for 1 hour, quenched with distilled water, acidified by a 10% potassium hydrogen sulfate solution (pH=5), and then extracted with diethyl ether. The extract was washed with a saturated solution of sodium hydrogen carbonate, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/30) to give 8.0 g of the titled compound as a yellow liquid.

reactant | pentafluoroiodoethane | 85.5 mmol, 0.84 M, 102.0 mL | FC(C(I)(F)F)(F)F | C2F5I
reactant | methyllithium lithium bromide | 85.5 mmol, 1.5 M, 57.0 mL | C[Li].[Br-].[Li+]
reactant | 3-(3-bromo-phenyl)-N-methoxy-N-methylacrylamide | 28.5 mmol, 50.0 mL, 7.7 g | BrC=1C=C(C=CC1)C=CC(=O)N(C)OC | C11H12BrNO2
product | 1-(3-bromo-phenyl)-4,4,5,5,5-pentafluoro-pent-1-en-3-one | 8.0 g | BrC=1C=C(C=CC1)C=CC(C(C(F)(F)F)(F)F)=O | C11H6BrF5O
